US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1,2,5-oxadiazole-3-carboxamide
To a solution of 1,2,5-oxadiazole-3-carboxylic acid (66 mg, 0.58 mmol) in 5 ml of DCM were added anhydrous HOBt (88 mg, 0.65 mmol) and PS-carbodiimide (590 mg, 0.77 mmol). After 10 min (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (100 mg, 0.38 mmol) was added and the reaction mixture was stirred at RT overnight. Resin was filtered and washed twice with DCM. Filtrate was washed with 10% citric acid, 1 M NaHCO3-solution, brine and water. Organic phase was dried over Na2SO4, filtered and evaporated to give 111 mg (81%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 4.25 (dd, 1H), 4.48 (dd, 1H), 4.58-4.70 (m, 1H), 6.66 (d, 1H), 7.51 (d, 1H), 7.71 (dd, 1H), 7.83 (dd, 1H), 8.01 (dd, 1H), 8.31 (d, 1H), 8.65 (s, 1H).

reactant | 1,2,5-oxadiazole-3-carboxylic acid | 0.58 mmol, 66 mg | O1N=C(C=N1)C(=O)O | C3H2N2O3
reactant | HOBt | 0.65 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | carbodiimide | 0.77 mmol, 590 mg | N=C=N | CH2N2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.38 mmol, 100 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1,2,5-oxadiazole-3-carboxamide | 111 mg, 81% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NON=C1 | C16H13ClN6O2
